US05776948
180 mg of ethyl 1-cyclopropyl-6-fluoro-7-(1-hydroxy-carbonylcyclopropyl)-8-methoxy-1,4-dihydro-4-oxo-3-quino-linecarboxylate was suspended in 2 ml of ethanol. After adding 1 ml of 2N NaOH, the mixture was stirred at room temperature for 15 hours. Then 2N HCl was added to the reaction mixture and the organic layer was collected, successively washed with water and a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After removing the solvent under reduced pressure, the residue was crystallized from diisopropyl ether and the crystals were collected by filtration. Thus 144 mg of 1-cyclopropyl-6-fluoro-7-(1-hydroxycarbonylcyclopropyl)-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was obtained (yield: 86.2%).

reactant | ethyl 1-cyclopropyl-6-fluoro-7-(1-hydroxy-carbonylcyclopropyl)-8-methoxy-1,4-dihydro-4-oxo-3-quino-linecarboxylate | 180 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)C1(C(C1)=C=O)O)F)=O)C(=O)OCC | C20H18FNO6
reactant | NaOH | 2N, 1 ml | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | ethanol | 2 ml | C(C)O | C2H6O
product | 1-cyclopropyl-6-fluoro-7-(1-hydroxycarbonylcyclopropyl)-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 144 mg, yield: 86.2% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)C1(CC1)C(=O)O)F)=O)C(=O)O | C18H16FNO6
